US07612114B2
6-{2-{Ethyl{3-fluoro-4-[2-(4-methyl-[1,4]diazepan-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 4-(2-chloroacetyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (21 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (9.4 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 4-(2-chloroacetyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 21 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(CCl)=O | C12H21ClN2O3
product | 6-{2-{Ethyl{3-fluoro-4-[2-(4-methyl-[1,4]diazepan-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 9.4 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1CCN(CCC1)C)F | C34H44FN3O3
